US08633173B2
175 b) N-[3-(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-benzyl]-N-methyl-methanesulfonamide was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (500.0 mg, 2.151 mmol) and (3-{[methyl(methylsulfonyl)amino]methyl}phenyl)boronic acid (650.0 mg, 2.674 mmol) in a manner analogous to Example 2c. Product isolated as a pale yellow foam (0.331 g, 44%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.51 (d, J=6.8 Hz, 1H), 7.99-7.95 (m, 2H), 7.74 (d, J=7.4 Hz, 1H), 7.54 (t, J=7.6 Hz, 1H), 7.45 (d, J=7.6 Hz, 1H), 7.18 (t, J=7.1 Hz, 1H), 4.42 (s, 2H), 2.92 (s, 3H), 2.84 (s, 3H). MS=351 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 2.151 mmol, 500.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | (3-{[methyl(methylsulfonyl)amino]methyl}phenyl)boronic acid | 2.674 mmol, 650.0 mg | CN(S(=O)(=O)C)CC=1C=C(C=CC1)B(O)O | C9H14BNO4S
product | N-[3-(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-benzyl]-N-methyl-methanesulfonamide | ClC1=NN2C(C(=CC=C2)C=2C=C(CN(S(=O)(=O)C)C)C=CC2)=N1 | C15H15ClN4O2S
